US06417202B1
3-Acetyl-2,4-dimethyl-5-(4-pyridyl)-1H-pyrrole (Step 2)
To a stirred solution of 3-acetyl-5-bromo-2,4-dimethyl-1H-pyrrole (5.33 g, 21.1 mmol, including water) in dimethoxyethane (DME; 60 mL) added water (20 mL), sodium bicarbonate (5.32 g, 63.3 mmol), 4-pyridineboronic acid [prepared according to the method of Fischer F. C. et al., J. Red. Trav. Chim. Pays-Bays, 1965, 84, 439. ] (3.11 g, 25.3 mmol) and bis(triphenylphosphine)palladium(II)chloride (1.48 g, 2.11 mmol) at room temperature under nitrogen. The mixture was heated at reflux temperature for 8 hours, 4-pyridineboronic acid (0.5 g, 4.07 mmol) and bis(triphenylphosphine)palladium(II)chloride (1.48 g, 2.11 mmol) were additionally added to the reaction mixture and stirred at reflux temperature for 6 hours. After cooling, the reaction mixture was filtered through celite pad. The filtrate was diluted with ethyl acetate (150 mL), and the whole was washed with water (50 mL). The aqueous layer was extracted with ethyl acetate (150 mL), and the combined organic layers were washed with brine (50 mL) and 10% aqueous HCl solution (100 mL×2). The combined acidic aqueous layers were neutralized with saturated aqueous NaHCO3 solution. The whole was extracted with ethyl acetate (100 mL×3), and the combined organic layers were dried over MgSO4, and concentrated in vacuo. The resulting solids were washed with diethylether to give 2.00 g of crude product, which was recrystallized from MeOH to give the title product (1. 13 g, 25% yield).

reactant | 3-acetyl-5-bromo-2,4-dimethyl-1H-pyrrole | 21.1 mmol, 5.33 g | C(C)(=O)C1=C(NC(=C1C)Br)C | C8H10BrNO
reactant | water | 20 mL | O | H2O
reactant | sodium bicarbonate | 63.3 mmol, 5.32 g | C([O-])(O)=O.[Na+]
reactant | 4-pyridineboronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
solvent | dimethoxyethane | 60 mL | C(OC)COC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 2.11 mmol, 1.48 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | bis(triphenylphosphine)palladium(II)chloride | 2.11 mmol, 1.48 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | 4-pyridineboronic acid | 4.07 mmol, 0.5 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 3-Acetyl-2,4-dimethyl-5-(4-pyridyl)-1H-pyrrole | 13 g, 25% yield | C(C)(=O)C1=C(NC(=C1C)C1=CC=NC=C1)C | C13H14N2O
